* S:\Electronics\Signals\WhiteNoiseZener_on_VoltagePump\model\BoostPump11_WaveExtractor.asc
R2 N005 N004 33
RL1 N006 N005 5
C2 N005 0 2.2µ
C3 N008 0 0.4µ
L1 N006 N007 100µ
D1 N007 N008 D
M§T1 N007 N012 0 0 2N7002
Vcc N003 0 5
R3 N009 N008 10k
D3 N013 N010 MMBZ24VALY
C1 N004 0 2.1µ
R1 N004 N003 33
XUT1 0 N015 N016 N003 NC_01 N015 N014 N003 NE555
CT1 N015 0 0.01µ
RT2 N015 N014 680
RD1 N012 N016 180
RD2 0 N012 330
RT1 N014 N003 100
D2 0 N008 BZX84B36VLY
C4 N009 0 0.4µ
VRND N013 0 SINE(0 100mV 500k)
C5 N011 N010 0.01µ
XU1 N011 N002 N001 0 GEN MAX4230
R7 N001 N011 1Meg
R9 N002 GEN 100k
Vcc1 N001 0 3.3
CB1 N001 0 0.1µ
R6 N010 N009 100k
R5 0 RDY 10k
R4 RDY N009 100k
R10 N002 0 10k
R8 0 N011 47k
D4 0 N011 1N750
.model D D
.lib C:\Users\Secoh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Secoh\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 200ms
* dV_ringing < 3 mV
* V_noise < 50 uV
* 36V
* 24V
* Target voltage level indicates\nthat the generator circuit is ON\nand/or within tolerances.\nHere: Note Rdy > 2.40 V,\nwait 5.2 ms since then\n(discharge time for R7-R8-C5\ncircuit until 1e-5 fraction),\nthen wait until Rdy > 2.85 V\n(R6-D3 bias 10% tolerance)
* nom 2.2u
* nom 1u
* nom 1u
* 2.5 V
* J_start < 70 mA\nJ_on < 34 mA
.lib MAX4230.lib
.lib NE555.sub
.backanno
.end
